US07291643B2
5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.5 g, 2.3 mmol) was dissolved in pyridine (5 mL), methane sulfonyl chloride (0.16 mL, 2.1 mmol) was added, the mixture was stirred for 4 hours, and then water was added. The mixture diluted with ethyl acetate and the mixture was washed with water, saturated CuSO4, 2N HCl, brine, dried over MgSO4, and concentrated. Flash chromatography (5%-50% ethyl acetate in hexane) afforded N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide (0.382 g).

reactant | 5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 2.3 mmol, 0.5 g | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | methane sulfonyl chloride | 2.1 mmol, 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide | 0.382 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NS(=O)(=O)C | C13H13N3O2S
